US08710043B2
Magnesium metal (0.095 g, 3.91 mmol) was activated using a crystal of iodine prior to addition of THF (1 mL). 1-Bromo-4-methoxybenzene (0.400 g, 2.139 mmol) was added, and the reaction was left without stirring for 5 minutes after which initiation was observed. Additional THF (15 mL) was added and the mixture was stirred for 2 hours. (S,E)-2-Methyl-N-((3-(trifluoromethyl)pyridin-2-yl)methylene)propane-2-sulfinamide (0.500 g, 1.797 mmol) was added, and the mixture was stirred for 10 minutes. The reaction was quenched by addition of saturated aqueous NH4Cl (10 mL). H2O (100 mL) and EtOAc (150 mL) were added, and the phases mixed and separated. The organic layer was dried with MgSO4 and evaporated to dryness under reduced pressure. Purification using silica chromatography (hexane to EtOAc gradient) gave (S)—N—((S)-(4-methoxyphenyl)-(3-(trifluoromethyl)pyridin-2-yl)methyl)-2-methylpropane-2-sulfinamide.

reactant | Magnesium | 3.91 mmol, 0.095 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1-Bromo-4-methoxybenzene | 2.139 mmol, 0.400 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | (S,E)-2-Methyl-N-((3-(trifluoromethyl)pyridin-2-yl)methylene)propane-2-sulfinamide | 1.797 mmol, 0.500 g | CC(C)(C)[S@](=O)/N=C/C1=NC=CC=C1C(F)(F)F | C11H13F3N2OS
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (S)—N—((S)-(4-methoxyphenyl)-(3-(trifluoromethyl)pyridin-2-yl)methyl)-2-methylpropane-2-sulfinamide | COC1=CC=C(C=C1)[C@H](N[S@@](=O)C(C)(C)C)C1=NC=CC=C1C(F)(F)F | C18H21F3N2O2S
